US07144899B2
To a stirred solution of (2R)-2-[(tert-butoxycarbonyl)amino]pent-4-enoic acid (2.15 g, 10.0 mmol) in CH2Cl2 (20 mL) and MeOH (1.5 mL) was added a 2.0 M solution of trimethylsilyldiazomethane in hexane (10 mL) dropwise. After the yellow color persisted and gas evolution ceased, the solution was stirred for 15 min, and then quenched with two drops of HOAc. The reaction mixture was washed with sat. NaHCO3, the aqueous layer extracted with CH2Cl2, the combined organic layers dried over Na2SO4, treated with activated carbon and concentrated at reduced pressure to give 2.2 g of methyl (2R)-2-[(tert-butoxycarbonyl)amino]pent-4-enoate as a yellow oil. This material was dissolved in 20 mL ether, and treated with a solution of diazomethane (prepared by the portionwise treatment of a stirred mixture of 35 mL ether and 10 mL 25% KOH at 0° C. with 3.32 g (22.5 mmol) 1-methyl-3-nitro-1-nitrosoguanidine). The resulting cold (0° C.) stirred solution was treated with a very small portion of Pd(OAc)2 which caused vigorous gas evolution. The cold bath was removed, and stirring continued for 1 h. The reaction mixture was filtered through a 1 cm pad of SiO2 and eluted with ether. The filtrate was concentrated to give a yellow oil that was chromatographed on a 110 g Redi-Sep column using a 0–40% EtOAc-hexane gradient over 40 min, 40 mL/min. The pure fractions were combined and concentrated at reduced pressure to give 1.0 g of the title compound as a colorless oil: 1H NMR (300 MHz, CDCl3): δ 5.10–5.20 (br d, J=6.1 Hz, 1H), 4.34–4.43 (m, 1H), 3.74 (s, 3H), 1.66 (t, J=6.5 Hz, 2H), 1.45 (s, 9H), 0.65–0.75 (m, 1H), 0.4–0.55 (m, 2H), 0.01–0.14 (m, 2H).

reactant | (2R)-2-[(tert-butoxycarbonyl)amino]pent-4-enoic acid | 10.0 mmol, 2.15 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC=C | C10H17NO4
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1.5 mL | CO | CH4O
solvent | hexane | 10 mL | CCCCCC | C6H14
product | methyl (2R)-2-[(tert-butoxycarbonyl)amino]pent-4-enoate | 2.2 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CC=C | C11H19NO4
